US09024027B2
To a solution of 6-(trifluoromethyl)-1H-indole (250 mg, 1.350 mmol) in dry DMF (3 ml), sodium hydride (60% w/w dispersion in mineral oil, 64.8 mg, 1.620 mmol) was added at room temperature. After 10 minutes, methyl 2-bromoacetate (150 μl, 1.620 mmol) was added and the mixture was stirred at room temperature for 1 hour. The solvent was removed under reduced pressure and the crude was purified by flash chromatography on silica gel column (hexane/ethyl acetate 90/10) to afford methyl 2-(6-(trifluoromethyl)-1H-indol-1-yl)acetate (120 mg, 0.467 mmol, 34.6% yield). MS/ESI+ 258.1 [MH]+.

reactant | 6-(trifluoromethyl)-1H-indole | 1.350 mmol, 250 mg | FC(C1=CC=C2C=CNC2=C1)(F)F | C9H6F3N
reactant | sodium hydride | 1.620 mmol, 64.8 mg | [H-].[Na+]
reactant | methyl 2-bromoacetate | 1.620 mmol, 150 μl | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | methyl 2-(6-(trifluoromethyl)-1H-indol-1-yl)acetate | 0.467 mmol, 120 mg, 34.6% yield | FC(C1=CC=C2C=CN(C2=C1)CC(=O)OC)(F)F | C12H10F3NO2
